US05153196
Quinoxalin-2-one (2-hydroxyquinoxaline) (14.62 g, 100 mmol) was added to glacial AcOH (700 ml) and treated with bromine (5.4 ml, 105 mmol in 1 ml AcOH) added dropwise over 15 minutes, yielding 7-bromoquinoxalin-2-one. The reaction mixture was diluted with 750 ml of H2O and 50 ml of 1 N Na2S2O3 and the precipitate was collected by filtration to give 13.7 g of a tan solid. This compound (1.00 g, 4.46 mmol) was added to 30 ml of POCl3 and warmed to reflux for 1 hour. The mixture darkened and became homogeneous. Upon cooling, the mixture was poured slowly onto 300 ml of H2O, and the resultant solid collected by filtration. This 2-chloro product (0.90 g, 3.7 mmol) was added to abs EL OH (30 ml) and treated with anhydrous hydrazine (0.30 ml, 9.4 mmol). The mixture was heated at reflux under N2 for 3 hours. Upon cooling, a precipitate formed. The solution was cooled further in an ice bath before collecting the resultant brown crystals. The hydrazino compound (0.67 g, 2.80 mmol) was added to 20 ml of triethylorthoformate and the suspension heated at 100° C. under N2 for 5 hours. The remaining precipitate was collected by filtration, washed with Et2O and air-dried, yielding 8-bromo-1,2,4-triazolo[4,3-a]quinoxaline (15).

reactant | Quinoxalin-2-one | 100 mmol, 14.62 g | N1C(C=NC2=CC=CC=C12)=O | C8H6N2O
reactant | bromine | 105 mmol, 5.4 ml | BrBr | Br2
solvent | AcOH | 700 ml | CC(=O)O | C2H4O2
product | 7-bromoquinoxalin-2-one | BrC1=CC=C2N=CC(NC2=C1)=O | C8H5BrN2O
